US04867915
Sodium methoxide (82 mg) is added to a solution of 16-(p-methylphenoxy)-hexadeca-5,8,11,14-tetraynoic acid (500 mg) in methanol (5 ml). The solution is then evaporated to dryness to afford 16-(p-methylphenoxy)-hexadeca-5,8,11,14-tetraynoic acid sodium salt.

reactant | Sodium methoxide | 82 mg | C[O-].[Na+]
reactant | 16-(p-methylphenoxy)-hexadeca-5,8,11,14-tetraynoic acid | 500 mg | CC1=CC=C(OCC#CCC#CCC#CCC#CCCCC(=O)O)C=C1 | C23H22O3
solvent | methanol | 5 ml | CO | CH4O
product | 16-(p-methylphenoxy)-hexadeca-5,8,11,14-tetraynoic acid sodium salt | [Na+].CC1=CC=C(OCC#CCC#CCC#CCC#CCCCC(=O)[O-])C=C1 | InChI=1S/C23H22O3.Na/c1-21-16-18-22(19-17-21)26-20-14-12-10-8-6-4-2-3-5-7-9-11-13-15-23(24)25;/h16-19H,4-5,10-11,13,15,20H2,1H3,(H,24,25);/q;+1/p-1
